US07361763B2
100 mg (0.24 mmol) of 5-bromo-3-[4-(3-piperidin-1-yl-propoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridine hydrochloride, 120 mg (0.33 mmol) of 2-[3-Methoxy-4-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 10 mg (5 mol %) of dichlorobis(triphenylphosphino)palladium(II) were placed in a vial and 1.5 ml of acetonitrile and 1.5 ml of a 2 M aqueous solution of sodium carbonate were added. The mixture was irradiated in a Personal Chemistry® microwave reactor to 165° C. for 1200 sec. The resulting mixture was distributed between dichloromethane and a saturated aqueous solution of sodium bicarbonate. The aqueous layer was extracted three times with dichloromethane and the combined organic phases were dried over sodium sulfate and evaporated. The crude product was purified by flash chromatography on amine functionalized silica gel (ISCO RediSep® amine column) using a gradient of ethyl acetate in hexanes. The resulting intermediate was dissolved in 30 ml of dichloromethane and 750 mg (1.06 mmol) of PS-thiophenol (Argonaut Technologies) was added. To this was added 1.5 ml of trifluoroacetic acid and the mixture was stirred at room temperature for 2 hours. The resin was filtered off and washed with dichloromethane. The filtrate was washed with a saturated aqueous solution of sodium bicarbonate, dried over sodium sulfate and evaporated. The residue was triturated with 20 ml of dichloromethane and dried by suction to afford 9 mg (20 μmol, 8% yield) of 2-methoxy-4-{3-[4-(3-piperidin-1-yl-propoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-phenol as a beige powder. 1H-NMR (d6-DMSO) δ: 11.83 [1H] d, 9.06 [1H] s, 8.50 [1H] d, 8.28 [1H] d, 7.76 [1H], 7.67 [2H] d(m), 7.25 [1H] d, 7.12 [1H] dd, 7.01 [2H] d(m), 6.88 [1H] d, 4.02 [2H] t, 3.87 [3H] s, 2.39 [2H] t, 2.34 [4H] (m),br, 1.88 [2H] t, 1.50 [4H] qui, 1.38 [2H] (m). MS, m/z: 458 [MH+].

reactant | 5-bromo-3-[4-(3-piperidin-1-yl-propoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridine hydrochloride | 0.24 mmol, 100 mg | Cl.BrC=1C=C2C(=NC1)NC=C2C2=CC=C(C=C2)OCCCN2CCCCC2
reactant | 2-[3-Methoxy-4-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.33 mmol, 120 mg | COC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C21H27BO5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichlorobis(triphenylphosphino)palladium(II) | 10 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 2-methoxy-4-{3-[4-(3-piperidin-1-yl-propoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-phenol | 20 μmol, 9 mg, 8% yield | COC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=CC=C(C=C2)OCCCN2CCCCC2)O | C28H31N3O3
